Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:10]([H:11])[H:12].[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[C:13]([H:14])([H:15])[H:16],5.25953185
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[H:7],5.01122831355
[C:3][O:4][C:5][O:6][C:7]([H:8])([H:9])[H:10].[H:1][C:2]>>[H:1][C:2]#[C:3][O:4][C:5][O:6][C:7]([H:8])([H:9])[H:10],-9.07198887289
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[O:11][H:12]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[O:11].[H:12],0.879760054257
[O:1][C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:1][C:2][C:3],7.11908029146
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:6].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:7](\[O:8][H:9])[C:10]([H:11])([H:12])[H:13],1.6573791141499998
[C:13]([H:14])[H:15].[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-5.2642595308
[H:1][C:2]=[C:3]([H:4])[C:5]([O:6][H:7])([O:8][H:9])[C:10]([H:11])[H:12]>>[H:1][C:2]=[C:3]([H:4])[C:5]([O:6][H:7])=[C:10]([H:11])[H:12].[O:8][H:9],2.64717656651
[H:1][C:2][C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])[H:13]>>[C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])[H:13].[H:1][C:2],4.62313876317
[H:1][C:2]/[C:3]([H:4])=[C:5](/[O:6][H:7])[O:8][C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[H:1][C:2]=[C:3]([H:4])[C:5]([O:6][H:7])=[O:8],1.84735300463
[H:10].[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-4.4000249648
[O:1]=[C:2]1[C@:3]2([H:4])[C:5][C@:6]12[O:7][H:8]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]#[C:6][O:7][H:8],-1.13857010895
[C:3][H:4].[H:1][C:2][C:5]#[C:6][C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]=[C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10],-7.9606203233200015
[C:8]([H:9])#[C:10][H:11].[O:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7]>>[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])=[C:10][H:11],1.0533525541
[H:1][C:2](=[C:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1]/[C:2](=[C:3]\[C:4]1([H:5])[C:6]([H:7])([H:8])[C:9]1([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-0.07280243892
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])=[C:5][C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:4],1.80649972504
[C:10]([H:11])([H:12])[H:13].[H:1][C:2](=[C:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[H:9])[C:14]([H:15])([H:16])[H:17]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.31226383989
[O:1]=[C:2]1[C:3]([H:4])([H:5])[C@@:6]1([H:7])[C:8]=[C:9]([H:10])[H:11]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11],-0.977358370959
[C:8]([H:9])=[C:10]([H:11])[H:12].[O:1][O:2][C:3]([H:4])([H:5])[C:6][H:7]>>[O:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])[H:12],-5.86667861264
[H:13].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-4.20139503553
[C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:1]>>[H:1][C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-3.82599499649
[C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12].[H:1]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12],-3.23637611242
[H:1][C:2]([O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5]([H:6])[H:7].[H:1][C:2]([O:3][C:4][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],7.17352647478
[C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10][H:11]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12]([H:13])[H:14],-7.43772399
[O:1][O:2][C:3]([H:4])[C:5]#[C:6][C:7]([H:8])[H:9]>>[C:6]=[C:7]([H:8])[H:9].[O:1][O:2][C:3]([H:4])=[C:5],6.64437558915
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:8]([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6][H:7],7.9076527999999975
[H:1][O:2][C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])[H:12]>>[H:12].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[O:9][C:10][H:11],4.14998241626
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])[C:7]([H:8])=[C:9][H:10]>>[C:1].[C:2](\[O:3][H:4])=[C:5](\[H:6])[C:7]([H:8])=[C:9][H:10],4.85301402303
